US07713994B2
1-(4-Nitro-benzyl)-2-vinyl-pyrrolidine
2-Vinyl-pyrrolidine-1-carboxylic acid tert-butyl ester (300 mg, 1.52 mmol) is dissolved in CH2Cl2 (4 mL) to which TFA (0.55 mL) is added dropwisely. The resulting mixture is stirred until TLC showed no starting material. All the volatiles were removed under vacuum. CH3CN (5 mL) is added followed by 4-nitrobenzylbromide (400 mg, 1.85 mmol) and K2CO3 (1 g, 7.2 mmol). The mixture is stirred until TLC suggested no starting material left. EtOAc and H2O were added and the EtOAc layer is washed with brine and dried. After evaporating the EtOAc, the residue is purified with flash chromatography to provide the desired product (300 mg, 85%).

reactant | 2-Vinyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.52 mmol, 300 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C=C | C11H19NO2
reactant | 4-nitrobenzylbromide | 1.85 mmol, 400 mg | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | K2CO3 | 7.2 mmol, 1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 0.55 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | H2O | O | H2O
product | 1-(4-Nitro-benzyl)-2-vinyl-pyrrolidine | 300 mg, 85% | [N+](=O)([O-])C1=CC=C(CN2C(CCC2)C=C)C=C1 | C13H16N2O2
